Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
Elective admission for cycle #1 high-dose methotrexate (MTX) for 
CNS lymphoma.
 
Major Surgical or Invasive Procedure:
___ PICC placement.
 
History of Present Illness:
___ yo who was doing well with her latest round of chemotherapy 
and she had no difficulty with fever, nausea, or worsening 
neuropathy. However, she presented to Dr. ___ in late 
___ and ___ followup MRI showed that she had relapsed CNS 
disease.  She has been completely asymptomatic. After discussion 
with neuro-oncology primary oncology pt and her family, she has 
elected to proceed with high dose MTX.  She denies any headaches 
or visual changes.  She denies any nausea.  She denies any 
difficulties with confusion or memory.  She denies any 
difficulty with strength or weakness.  She was also seen in 
___ in late ___ and was told that although her 
fracture continues to heal well, she needs to remain 
nonweightbearing for the next five weeks.  She will be seen in 
the first week of ___, which is approximately three months 
after her surgery, and at that time, she will hopefully be able 
to begin bearing weight on the left lower extremity. All other 
ROS are negative.
 
Past Medical History:
- Diffuse large B cell lymphoma
- Glaucoma  
- DM2 seen by ___  
- Chronic kidney disease  
- Hyperlipidemia  
- Hypertension  
- Osteoarthritis  
- Iron def anemia  
- s/p bilateral TKR
Oncologic History:
___ she developed worsening edema in her legs, L>R. She did 
not have a rash at that time. She tried TEDS which did not help 
and was evaluated for a DVT but that was negative.
- About 2 weeks prior to her admission, she went to her PCP
because of ___ new rash in the left leg.
- Dermatology performed a biopsy on ___ which revealed
pan-dermal and subcutaneous malignant infiltrate most consistent
with diffuse B cell lymphoma, large cell type.
- She then began to have falls at home and was found down by her
___ on the day of admission (___). There was no documented
LOC, loss of sphincter control, or witnessed seizure activity.
 Her family also described periods of increased confusion and
making statements that don't make any sense since her diagnosis.
- In the ER, she underwent a trauma evaluation after her fall 
and she was found to have a 2 cm L frontal mass with surrounding
vasogenic edema.  C-spine, CXR and hip films were unremarkable.
- MRI head ___ confirmed an enhancing mass lesion in the
subcortical white matter of the left frontal lobe, approximately
2 cm, associated with vasogenic edema and effacement of the 
sulci.
- MRI spine ___ showed multilevel degenerative changes
throughout the cervical, thoracic, and lumbar spine as well as a 
focal lesion within the right psoas at the level of L3/L4, 
possibly consistent with a hematoma, calcification, or a 
metastasis.
- ECHO ___: Mild aortic valve stenosis. Mild symmetric left
ventricular hypertrophy with preserved global and regional
biventricular systolic function (LVEF >55%). Pulmonary artery
systolic hypertension.
- PET scan ___ revealed a 2-cm intracranial lymphoma
metastasis in the left frontal lobe, moderate intramuscular
lymphoma disease in the left biceps and right psoas, and
extensive lymphoma in the left calf with mild regional spread to
the left thigh and left inguinal nodes.
- brain biopsy ___ revealed B-cell lymphoma, favoring large
B-cell subtype.
- bone marrow biopsy on ___ was normal, no involvement by
lymphoma.
- received Cyberknife to the CNS lesion ___ (1500 cGy x 1
fraction).
- transferred to ___ service and began CHOP on ___
(vincristine capped at 2).
- she received Rituxan 375mg/m2 on ___.
- she received C2D1 of R-CHOP on ___.
- C3D1 R-CHOP ___.
- C4D1 RCHOP ___.
- fracture worsened on X-rays ___.
- ORIF L tibia and closed treatment of L fibular shaft fracture
performed on ___.
- C5D1 R-CHOP on ___.
- C6D1 R-CHOP on ___.
- ___ PET showed 9-mm FDG-avid lesion in the genu of the 
corpus callosum SUVmax 18.5 concerning for recurrence and 
FDG-avid focus in the right hilum SUVmax 5.3 without definite 
anatomic correlates.
- ___ Cycle #1 High-dose MTX.
 
Social History:
___
Family History:
- Brother with brain cancer diagnosed in his ___.
- No family history of premature CAD, SCD, stroke.
 
Physical Exam:
ADMISSION EXAM:
Pain: Controlled   Uncontrolled  0  1  2  ___  ___  9  
10    Location:
VS: 
GENERAL:  well appearing in no apparent distress 
Nourishment: good  
Grooming: good   
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted  
Ears/Nose/Mouth/Throat: Mucous membranes moist,without ulcers or 
exudates, plates above and below  
Neck: supple, no JVD or carotid bruits appreciated  
Respiratory: CTA bilaterally without rhonci, without wheezes
Cardiovascular: RRR, S1S2, ___ sys murmur at LLSB and ___  
diastolic murmur, no rubs, no gallops 
Gastrointestinal: soft, NT/ND, no rebound, no guarding, 
normoactive bowel sounds, no masses or organomegaly noted. 
Skin: warm, dry, no rashes or lesions noted. No pressure ulcers  

Extremities: without cyanosis, without clubbing, without edema, 
without joint swelling
Lymphatics/Heme/Immun: No cervical, no supracalvicular, no 
axillary, no inguinal lymphadenopathy noted. 
Neurologic:  
-mental status: Alert, oriented x 3. Normal attention. Able to 
relate history without difficulty. Fluent speech. 
-cranial nerves: II-XII intact  
-motor: normal bulk, ___ strength and tone throughout. No 
abnormal movements noted. -sensory: No deficits to light touch 
throughout. Psychiatric:  calm, pleasant, appropriate.
 
Pertinent Results:
ADMISSION LABS:
___ 06:30PM URINE  COLOR-Straw APPEAR-Cloudy SP ___
___ 06:30PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-1 PH-7.0 LEUK-LG
___ 06:30PM URINE  RBC-32* WBC-  BACTERIA-FEW YEAST-NONE 
EPI-5
___ 12:15PM   UREA N-8 CREAT-0.7 SODIUM-142 POTASSIUM-3.9 
CHLORIDE-104 TOTAL CO2-28 ANION GAP-14
___ 12:15PM   ALT(SGPT)-18 AST(SGOT)-21 LD(LDH)-233 ALK 
PHOS-100 TOT BILI-0.3
___ 12:15PM   CALCIUM-9.9 PHOSPHATE-3.5 MAGNESIUM-1.9
___ 12:15PM   WBC-2.9* RBC-3.61* HGB-11.9* HCT-34.3* MCV-95 
MCH-33.0* MCHC-34.7 RDW-17.6*
___ 12:15PM   PLT COUNT-232#
___ 12:15PM   ___ PTT-23.9 ___
___ 12:15PM   ___ ___
.
___ PET: IMPRESSION:
1. 9-mm FDG-avid lesion in the genu of the corpus callosum, 
SUVmax 18.5, concerning for recurrence of intracranial lymphoma. 
Equivocal tumor seeding at the prior left frontal biopsy site. 
Recommend correlations with recent MRI head on ___.
2. FDG-avid focus in the right hilum, SUVmax 5.3, without 
definite anatomic correlates, but possibly represents FDG-avid 
right hilar lymphadenopathy.
3. Multifocal superficial FDG-avidity in the left calf and foot, 
could represent interval worsening of lymphoma and/or 
superimpose 
cellulitis.
.
___ CXR FINDINGS: Single upright AP view of the chest shows 
no pleural effusions. Mild bibasilar atelectasis. Cardiac 
silhouette is normal. No pneumothorax or focal consolidations.
.
___ CXR: FINDINGS: There is right-sided PICC line with tip in 
the right atrium. The resident interpreting this film in the 
evening on ___ recommended pulling this back 2 cm. The lungs are 
clear. There is no effusion. There is no pneumothorax.
.
___ CXR: FINDINGS: As compared to the prior examination there 
are new opacities predominantly within the left lower lobe which 
could represent aspiration or developing infection. Lung volumes 
are slightly lower. No pneumothorax is seen. A right-sided PICC 
terminates within the right atrium.
.
___ RUE DOPPLER U/S: IMPRESSION: Superficial thrombophlebitis 
of the right basilic vein.
.
DISCHARGE LABS:
___ 05:40AM BLOOD WBC-2.1* RBC-3.01* Hgb-9.9* Hct-27.8* 
MCV-93 MCH-33.0* MCHC-35.6* RDW-16.7* Plt ___
___ 05:40AM BLOOD Neuts-78.7* Lymphs-16.2* Monos-2.3 
Eos-1.7 Baso-1.2
___ 05:40AM BLOOD ___ PTT-25.6 ___
___ 06:08AM BLOOD Ret Aut-3.2
___ 05:40AM BLOOD Glucose-92 UreaN-18 Creat-0.9 Na-141 
K-3.6 Cl-104 HCO3-28 AnGap-13
___ 06:22AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.0
___ 06:22AM BLOOD ALT-33 AST-27 AlkPhos-75 TotBili-0.4
___ 06:08AM BLOOD calTIBC-255* VitB12-1783* Folate-19.9 
Ferritn-220* TRF-196*
___ 06:00AM BLOOD mthotrx-0.41
___ 06:00AM BLOOD mthotrx-0.___ yo woman with DM, HTN, and CRF admitted for cycle #1 
high-dose MTX.  Chemo postponed for UTI and PICC placement, then 
MTX given ___ with clearance of UTI and abx held to avoid MTX 
interaction.  Fever recurred after MTX clearance.  CXR suggested 
pneumonia.  Started on ceftriaxone (changed to cefpodoxime at 
hospital discharge).  RUE doppler U/S, done due to difficulty 
removing PICC, revealed a superficial thrombophlebitis, treated 
with hot packs.  Discharged to rehab with plan to return in two 
weeks for cycle #2.
.
# CNS lymphoma: Initially held for UTI and PICC placement, 
high-dose MTX 3.5g/m2 (dose reduced for age) given ___.  
Stopped cefepime ___ to avoid interaction with MTX.  Avoided 
penicillins and fluoroquinalones for UTI to avoid MTX 
interaction.  Bicarbonate 1meq/kg IV prior to chemotherapy, 
25meq IV with chemotherapy, 150meq/1L bicarb in IV hydration 
(increased to 150meq to enhance MTX excretion), and 1300mg PO.  
Changed IV fluids to ___ normal saline with 50-100meq bicarb to 
stop severe hyperglycemia.  Leucovorin rescue at 24 hours 
post-MTX.  MTX levels checked at 24, 48, and 72 hours.  
Anti-emetics prn.  Restarted TMP-SMX, aspirin, and glipizide now 
that MTX cleared.  Continued levetiracetam.  Gave furosemide 
40mg PO x1 ___ for 10 lbs wght gain.
.
# Pancytopenia: Chemo-induced.  Unremarkable anemia labs.  
Transfused 1U pRBC ___ with furosemide.
.
# Diabetes: Worse with steroids and D5W fluids.  Improved off 
D5W.  Restarted glipizide with MTX clearance.  Insulin glargine 
+ sliding scale.
.
# Fever: Low-grade after stopping cefepime.  Repeat U/A 
negative.  CXR ___ clear.  Repeat CXR ___ showed LLL 
infiltrate; started ceftriaxone.  C. diff, stool cx, and O&P 
negative x1.  Diarrhea resolved.  PICC line irritation and 
superficial thrombophlebitis.  PICC removed ___.  Blood and 
PICC tip cultures no growth to date.  Changed ceftriaxone to 
cefpodoxime for hospital discharge.
.
# Superficial thrombophlebitis: Hot packs to right arm.  PICC 
D/C'd.  Continued DVT prophylaxis with fondaparinux.
.
# UTI: Changed meropenem IV to cefepime per antibiotic approval 
team recommendation.  Cefepime stopped ___ to avoid 
interaction with MTX.  Urine culture grew alpha hemolytic 
colonies consistent with alpha streptococcus or Lactobacillus.  
Repeat U/A negative.
.
# Lymphoma: Restaged PET ___ with questionable hilar 
adenopathy.  Continued allopurinol.  Restarted TMP-SMX and 
acyclovir prophylaxis since MTX cleared.
.
# Tibial/fibular fracture: Pathologic fractures due to 
chemoresponse of her lymphoma with distal fibular resorption.  
Orthopedic surgery consulted.  Continued bivalve cast.  No 
weight bearing for 3 more weeks.
.
# Diarrhea: Possibly due to over-judicious use of stool 
softeners and laxatives.  Held bowel regimen.  C. diff toxin 
negative x1.  Stool culture and O&P negative.
.
# Constipation: Resolved with bowel regimen (now on hold due to 
diarrhea).
.
# Pain: Continued oxycodone prn.
.
# FEN: Regular diabetic diet.  Metabolic alkalosis expected with 
bicarb administration.  Repleted hypophosphatemia and 
hypokalemia.
.
# DVT prophylaxis: Fondaparinux.
.
# GI prophylaxis: PPI.  Bowel regimen.
.
# Lines: PICC placed ___, D/C'd ___.
.
# Precautions: Fall.
.
# CODE: FULL.
 
Medications on Admission:
ACYCLOVIR 400 mg PO q8hrs
ALLOPURINOL ___ mg PO once a day
CLOTRIMAZOLE 10 mg Troche dissolve PO QID
FOLIC ACID 1 mg Tablet PO daily
FONDAPARINUX 2.5mg/0.5 mL Syringe - Inject 2.5mg SC daily DVT 
ppx
GLIPIZIDE 5 mg Tablet PO daily
INSULIN GLARGINE [LANTUS] 100U/mL Solution - inject 12U SC qHS
LACTULOSE 10 gram/15 mL Solution - 30 gm PO daily PRN 
constipation
LEVETIRACETAM 250 mg PO BID
OMEPRAZOLE 40 mg Capsule PO daily
ONDANSETRON HCL - 8 mg Tablet PO Q8hrs PRN nausea
OXYCODONE 5 mg Tablet PO q4hrs PRN pain
POLYETHYLENE GLYCOL 3350 17 gram/dose Powder PO DAILY PRN 
constipation
PROCHLORPERAZINE MALEATE 10 mg PO Q6HR PRN nausea
SULFAMETHOXAZOLE-TRIMETHOPRIM 400mg-80 mg Tablet PO DAILY
ACETAMINOPHEN 650 mg PO QID PRN pain
ASCORBIC ACID ___ mg PO DAILY
ASPIRIN [ENTERIC COATED ASPIRIN] 81mg PO daily
CYANOCOBALAMIN (VITAMIN B-12) 1,000mcg PO DAILY
DOCUSATE SODIUM 100 mg PO BID
INSULIN REGULAR HUMAN [HUMULIN R] 100U/mL Solution - per sliding 
scale SC QIDACHS <150 = 0 units; 150-200 = 2U; 201-250 = 4U; 
251-300 = 6U; 301-350 = 8U, 351-400 = 10U, >400 = 12U.
MAGNESIUM HYDROXIDE [MILK OF MAGNESIA] 400mg/5mL 30 mL PO qHS 
PRN constipation
MULTIVITAMIN Tablet 1 mouth DAILY
SENNOSIDES [SENNA] 8.6 mg Tablet PO BID
 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H.
2. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY.
3. clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 
QID.
4. fondaparinux 2.5 mg/0.5 mL Syringe Sig: One (1) Syringe 
Subcutaneous DAILY.
5. glipizide 5 mg Tablet Extended Rel 24 hr PO DAILY.
6. insulin glargine 100 unit/mL Solution Sig: 12U Subcutaneous 
at bedtime.
7. lactulose 10 gram/15 mL Syrup Sig: 30ML PO DAILY PRN 
constipation.  
8. levetiracetam 250 mg Tablet PO BID.
9. omeprazole 40 mg PO DAILY.
10. ondansetron HCl ___ mg PO q8hrs PRN nausea.
11. oxycodone 5 mg Tablet PO Q4H PRN pain.
12. polyethylene glycol 3350 17 gram/dose PO DAILY PRN 
Constipation.
13. prochlorperazine maleate 5 mg Tablet Sig: ___ Tablets PO 
q6hrs PRN nausea.
14. sulfamethoxazole-trimethoprim 400-80 mg PO DAILY.
15. acetaminophen 325 mg Tablet Sig: ___ Tablets PO q6hrs PRN 
pain.
16. aspirin 81 mg PO DAILY.
17. Vitamin B-12 1,000 mcg PO once a day.
18. docusate sodium 100 mg Capsule PO BID.
19. senna 8.6 mg PO BID PRN Constipation.
20. magnesium hydroxide 400 mg/5 mL 30mL PO BID PRN 
constipation.
21. insulin regular human 100U/mL Solution Sig: Units QID: Per 
sliding scale.
22. miconazole nitrate 2% Powder Topical BID PRN fungal rash.
23. cefpodoxime 200 mg PO BID x8 days: Last day ___.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
CNS (central nervous system, brain) lymphoma.
Cycle #1 high-dose methotrexate chemotherapy.
Anemia.
Diabetes.
Urinary tract infection.
Pneumonia.
Left sided tibia/fibula (lower leg) fracture.
Constipation.
Right arm superficial thrombophlebitis (blood clot).
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital for cycle #1 high-dose 
methotrexate chemotherapy for lymphoma of the brain.  
Chemotherapy was initially held because you had an urinary tract 
infection and needed antibiotics.  You also needed to have a 
PICC line placed to receive fluids and chemotherapy.  You 
tolerated your chemotherapy well except for an increase in your 
blood sugars that was treated with insulin.  After chemotherapy, 
you developed a fever.  Chest x-ray suggested a lung infection 
(pneumonia), so antibiotics were restarted and you will need to 
complete a course of antibiotics after you leave the hospital.  
There is a superficial phlebitis (blood clot) in the right arm, 
where the PICC line used to be.  This can be treated with hot 
packs for comfort.
.
MEDICATION CHANGES:
1. Cefpodoxime
 
Followup Instructions:
___